US07572808B2
Preparation of 7-(4-chlorophenyl)-2-((2-(methoxymethyl)-6-(trifluoromethyl)pyridin-3-yl)methyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one
To a solution of 7-(4-chlorophenyl)-2-((2-(hydroxymethyl)-6-(trifluoromethyl)pyridin-3-yl)methyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one (26 mg, 0.05 mmol) in anhydrous DMF (0.5 mL) cooled at 0° C. was added sodium hydride (60% in oil, 4.0 mg, 0.1 mmol). The resulting mixture was stirred at 0° C. for 30 min, then iodomethane (20 μL, 0.25 mmol) was added. The reaction mixture was stirred at 0° C. for 30 min, then quenched by addition of water. The mixture was extracted with EtOAc (10 mL×2), and the combined EtOAc extracts were washed with saturated aqueous NaCl, dried over Na2SO4 and concentrated under reduced pressure. The crude product was purified using a silica gel cartridge (4 g) eluted with a gradient of ethyl acetate (50-100%) in hexanes to afford 12 mg of the title compound as a yellow foam. HPLC/MS: retention time=2.93 min, [M+H]+=526.1.

reactant | 7-(4-chlorophenyl)-2-((2-(hydroxymethyl)-6-(trifluoromethyl)pyridin-3-yl)methyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 0.05 mmol, 26 mg | ClC1=CC=C(C=C1)C1=C(C=2N(C=C1)C(N(N2)CC=2C(=NC(=CC2)C(F)(F)F)CO)=O)C2=CC=NC=C2 | C25H17ClF3N5O2
reactant | sodium hydride | 0.1 mmol, 4.0 mg | [H-].[Na+]
reactant | iodomethane | 0.25 mmol, 20 μL | IC | CH3I
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 7-(4-chlorophenyl)-2-((2-(methoxymethyl)-6-(trifluoromethyl)pyridin-3-yl)methyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 12 mg | ClC1=CC=C(C=C1)C1=C(C=2N(C=C1)C(N(N2)CC=2C(=NC(=CC2)C(F)(F)F)COC)=O)C2=CC=NC=C2 | C26H19ClF3N5O2
